US09376398B2
(i) ethyl 2-(2,2,2-trifluoroethylamino)acetate
2,2,2-trifluoroethylamine (2.0 g) was added to a suspension of ethyl bromoacetate (2.3 mL), potassium iodide (0.34 g) in diisopropylethylamine (3.3 mL) and the mixture was stirred at RT for 5.5 h. The mixture was diluted with diethyl ether (30 mL), stirred at RT for 30 mins. The suspension was filtered and concentrated under reduced pressure. The sub-title compound (2.6 g) was obtained as a yellow oil; 1H NMR (300 MHz, CDCl3); 4.19 (2H, q), 3.50 (2H, s), 3.22 (2H, q), 1.26 (3H, t).

reactant | 2,2,2-trifluoroethylamine | 2.0 g | FC(CN)(F)F | C2H4F3N
reactant | ethyl bromoacetate | 2.3 mL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium iodide | 0.34 g | [I-].[K+]
solvent | diisopropylethylamine | 3.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | ethyl 2-(2,2,2-trifluoroethylamino)acetate | 2.6 g | FC(CNCC(=O)OCC)(F)F | C6H10F3NO2
